US07279481B2
N-(3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)-N-(methylsulfonyl)methanesulfonamide (E148)
To a stirred solution of 3-{2-[4-(2-methyl-5-quinolinyl)-1-piperaziny]ethyl}aniline (370 mg) and triethylamine (178 μL) in DCM (3 mL) was added methanesulfonyl chloride (33 □L). The mixture was stirred for 18 h, then partitioned between saturated aqueous sodium hydrogencarbonate solution and DCM. The organic layer was -washed with water, dried and concentrated in vacuo. The residue was purified by column chromatography [SiO2; DCM-MeOH, (20:0)→(20:1)] to give the title compound (342 mg).

reactant | 3-{2-[4-(2-methyl-5-quinolinyl)-1-piperaziny]ethyl}aniline | 370 mg | CC1=NC2=CC=CC(=C2C=C1)N1CCN(CC1)CCC=1C=C(N)C=CC1 | C22H26N4
reactant | triethylamine | 178 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-(3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)-N-(methylsulfonyl)methanesulfonamide | 342 mg | CC1=NC2=CC=CC(=C2C=C1)N1CCN(CC1)CCC=1C=C(C=CC1)N(S(=O)(=O)C)S(=O)(=O)C | C24H30N4O4S2
